US05792860
A mixture of catechol (11 g, 100 mmole), bromododecane (32.4 g, 130 mmoles) and potassium carbonate (18.2 g, 130 mmole) in dry DMF (100 ml) was stirred and heated at 60° C. for 48 h. The mixture was poured into water (500 ml) and extracted with diethyl ether (3×100 ml). The combined ether extracts were washed with saturated sodium chloride solution (2×100 ml) and dried with anhydrous magnesium sulphate. The ether was removed to give a solid. Distillation at reduced pressure gave 2-dodecyloxyphenol (11.4 g, 41%), b.p. 175° C./0.5 mmHg, (Found C, 77.80; H, 10.80; C18H30O2 requires C,77.65; H, 10.86; MS (CI) m/e 296 (M+ +NH4+), δH (200 MHz, CDCl3) 0.90(t, 3H), 1.28(br s, 18H), 1.82(q, 2H), 4.04(t, 2H), 5.70(s, 1H) and 6.85(m, 4H) and Catechol bis-decyl ether (11.2 g, 25%), b.p. 225° C./0.5 mmHg, m.p. 46° C. (Lit. 46° C.)5.

reactant | catechol | 100 mmole, 11 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | bromododecane | 130 mmoles, 32.4 g | BrCCCCCCCCCCCC | C12H25Br
reactant | potassium carbonate | 130 mmole, 18.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-dodecyloxyphenol | 11.4 g, 41% | C(CCCCCCCCCCC)OC1=C(C=CC=C1)O | C18H30O2
